US07582410B2
Into a 2-liter round-bottom flask was put 62.8 g of N-phenyliminodiacetic acid under nitrogen gas stream to dissolve with 500 ml of toluene. To the solution was added 32.0 g of acetic anhydride, and the mixture was refluxed by heating with stirring. After lapse of one our, the mixture was cooled to room temperature and 3 liters of hexane was added thereto with stirring to deposit. The deposit was collected by filtration to obtain 52.0 g of N-phenyliminodiacetic acid anhydride.

reactant | N-phenyliminodiacetic acid | 62.8 g | C1(=CC=CC=C1)N(CC(=O)O)CC(=O)O | C10H11NO4
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic anhydride | 32.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | hexane | 3 liters | CCCCCC | C6H14
product | N-phenyliminodiacetic acid anhydride | 52.0 g | C1(=CC=CC=C1)N1CC(=O)OC(C1)=O | C10H9NO3
